US04868301
Ethyl-3-cyanoethyl-4-oxo-3-H-phthalazin-1-ylacetate
To a solution of ethyl-4-oxo-3-H-phthalazin-1-ylacetate (10.91 g) and dry potassium t-butoxide (5.90 g) in dimethylformamide (50 ml) was added 3-chloropropionitrile (4.92 g) and the resulting solution was stirred for 30 minutes. The solution was then poured onto ice-water (300 ml); sufficient 10% HCl was added to adjust the pH of the resulting mixture to about 4.0 and the precipitated solid was collected and crystallized from methanol (yield: 7.64 g; m.p. 125°-126° C.).

reactant | ethyl-4-oxo-3-H-phthalazin-1-ylacetate | 10.91 g | C(C)OC(CC1=NNC(C2=CC=CC=C12)=O)=O | C12H12N2O3
reactant | potassium t-butoxide | 5.90 g | CC(C)([O-])C.[K+]
reactant | 3-chloropropionitrile | 4.92 g | ClCCC#N | C3H4ClN
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Ethyl-3-cyanoethyl-4-oxo-3-H-phthalazin-1-ylacetate | C(C)OC(CC1=NN(C(C2=CC=CC=C12)=O)CCC#N)=O | C15H15N3O3
